US06888032B2
1-(Toluene-4-sulfonyl)-indole-5-carbonitrile
An oven dried screw cap test tube was charged with NaCN (106 mg, 2.163 mmol), dried KI (60 mg, 0.361 mmol, 20 mol %), CuI (34 mg, 0.178 mmol, 10 mol %), 5-bromo-1-(toluene-4-sulfonyl)-1H-indole (630 mg, 1.803 mmol), evacuated and backfilled with argon three times. N,N′-dimethylethylenediamine (195 μL, 1.832 mmol) and anhydrous toluene (1.1 mL) were added under argon. The tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 24 h. The resulting yellow suspension was cooled to room temperature, 2 mL of ethyl acetate, 1 mL of ammonium hydroxide (30%) and 1 mL of water were added. The mixture was stirred at 25° C. for 10 min, then the organic layer was separated and the aqueous layer was extracted three times with ethyl acetate (3×2 mL). The organic layers combined were washed with 5 mL of water and dried over MgSO4. The solvent was removed at reduced pressure. Purification of the residue by flash chromatography on silica gel (2×15 cm; hexane/ethyl acetate 10:1) provided 459 mg (86% yield) of the title compound as a white solid.

reactant | NaCN | 2.163 mmol, 106 mg | [C-]#N.[Na+]
reactant | 5-bromo-1-(toluene-4-sulfonyl)-1H-indole | 1.803 mmol, 630 mg | BrC=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C | C15H12BrNO2S
reactant | N,N′-dimethylethylenediamine | 1.832 mmol, 195 μL | CNCCNC | C4H12N2
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
catalyst | CuI | 0.178 mmol, 34 mg | [Cu]I
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1.1 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(Toluene-4-sulfonyl)-indole-5-carbonitrile | 459 mg, 86% yield | C1(=CC=C(C=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)C#N)C | C16H12N2O2S
